US07199135B2
(2S)-2-(4-fluorophenyl)-N-(3-{4-[5-(isobutyrylamino)-2-methylphenyl]-1-piperidinyl}propyl) propanamide:
Example 168 was prepared from (2S)-2-(4-fluorophenyl)propanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 12; [α]D=+13.5° (C=1.02, MeOH): 1H NMR (400 MHz, CDCl3) δ 7.58–7.49 (m, 2 H), 7.37–7.29 (m, 2 H), 7.26–7.19 (m, 1 H), 7.06 (d, 1 H, J=8.0 Hz), 7.04–6.92 (m, 3 H), 3.56 (t, 1 H, J=6.8 Hz), 3.43–3.23 (m, 2 H), 2.95 (ABq, 2 H), 2.63–2.59 (m, 1 H), 2.59–2.45 (m, 1 H), 2.37 (t, 2 H, J=6.0 Hz), 2.27 (s, 3 H), 2.07–1.90 (m, 2 H), 1.82–1.57 (m, 6 H), 1.50 (d, 3 H, J=7.2 Hz), 1.22 (d, 6 H, J=7.2 Hz); ESMS m/e: 468.3 (M+H)+.

reactant | (2S)-2-(4-fluorophenyl)propanoic acid | FC1=CC=C(C=C1)[C@@H](C(=O)O)C | C9H9FO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
solvent | MeOH | CO | CH4O
product | (2S)-2-(4-fluorophenyl)-N-(3-{4-[5-(isobutyrylamino)-2-methylphenyl]-1-piperidinyl}propyl) propanamide | FC1=CC=C(C=C1)[C@@H](C(=O)NCCCN1CCC(CC1)C1=C(C=CC(=C1)NC(C(C)C)=O)C)C | C28H38FN3O2
